Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cat Hair Std Extract / Mold/Yeast/Dust
 
Attending: ___.
 
Chief Complaint:
Worsening abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
This is a ___ year old man with history of recurrent pancreatitis 
(h/o ampullary stenosis), s/p CCY for cholelithiasis and chronic 
LLQ abdominal pain who presents with crampy lower abdominal pain 
and epigastric/RUQ pain over the past ___ weeks, worse over the 
past 5 days. ___ was seen in the ED at ___ with acute 
worsening of crampy LLQ pain which ___ initially attributed to 
eating dairy products in the setting of lactose intolerance 
(although did use lactaid). ___ did not undergo abdominal imaging 
at that ED visit and was discharged home with PCP follow ___ 
was seen 2 weeks ago at ___'s office at which time his symptoms 
were much improved. However, given his h/o diverticulosis and 
LLQ pain previously, ___ was treated with 10 days of 
cipro/flagyl. ___ reports no change in his symptoms during or 
following this course of antibiotics. ___ has had no 
fevers/chills throughout. ___ denies nausea/vomiting. ___ reports 
perhaps looser stool while on the cipro/flagyl, but no diarrhea. 
No blood in his stool. Over the past 5 days, ___ has noted 
increasing lower abdominal crampy pain which worsens every time 
___ eats (not just dairy products at this time). ___ also reports 
chronic epigastric pain and mild dysphagia which is overall 
unchanged. ___ reports his appetite has been down slightly, but 
___ feels as though ___ been keeping up with food/fluid. ___ does 
note a 7lb weight loss over the past 2 weeks and 25 lb weight 
loss over the past ___ years.  
  
___ denies recent tylenol use (last 2 weeks ago), no herbal meds, 
nor EtOH or new medications. ___ reports that ___ frequently eats 
store bought fish, no shellfish. No sick contacts.  
  
___ has been followed closely by Dr. ___ ___ here since ___. 
___ underwent MRCP in ___ for h/o epigastric/RUQ pain and 
pancreatitis in the setting of ampullary stenosis, however this 
was unrevealing for pathology. Subsequently, ___ has been 
evaluated for LLQ and lower abdominal pain and has undergone CT 
abd/pelvis which showed diverticulosis, but not -itis, nor other 
clear pathology as underlying cause of his pain.  
  
In the ED, intitial vitals were, T: 98.3 HR: 71 BP: 143/89 RR: 
16 O2sat 97%RA. Labs were notable for elevation in liver tests 
with AST/ALT/AP of ___ respectively, with normal t.bili. 
These are up from normal labs in ___ (climbed some at the 
beginning of ___. Lipase was up to 104 (previously ___ 
range consistently in our system). WBC count was normal and ___ 
remained afebrile. Coags and platelet count also wnl. RUQ U/S 
was performed which demonstrated (on wet read) no CBD 
dilatation, normal hepatic flow; spleen was unremarkable; 
kidneys showed stable renal cysts, no hydro.  
  
ROS: As above. Addtionally, no constipation, diarrhea, melena, 
BRBPR. No chest pain (pleuritic or otherwise), palpitations, 
dizziness or lightheadedness change in vision, hearing, 
hematuria, dysuria, ___ swelling, numbness, tingling, weakness, 
joint pain, myalgias, rashes.  
  

 
Past Medical History:
Recurrent pancreatitis and ampullary stenosis  
Hypertension  
GERD  
Anemia  
Diverticulosis  
Asthma  
Lactose intolerance  
Renal cysts (noted on MRCP)  
s/p CCY  
Transurethralresection of his prostate in ___  
Nasal surgery for polyp  
s/p hernia repair in ___  
Rotator cuff problems  
s/p arthroscopic surgery in his right knee for a torn meniscus  
Loss of hearing in his left ear  
Pilonidal cyst  
s/p wisdom teeth extracted  

 
Social History:
___
Family History:
Father died at ___ with heart problems. His mother at ___ with a 
history of breast cancer. His sister is ___ years younger and has 
pemphigus.  

 
Physical Exam:
On admission:  
VS: 97.3 143/95 61 18 98%RA  
GENERAL: Well appearing older gentleman in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. MMM.  
NECK: Supple without e/o JVD.  
CARDIAC: RRR, no mrg.  
LUNGS: CTAB, no w/r/r.  
ABDOMEN: Normoactive bowel sounds. Mildly tender to palpation 
diffusely, perhaps slightly more lower abdomen, no 
rebound/guarding, no appreciable organomegaly.  
EXTREMITIES: No c/c/e. WWP.  
SKIN: No jaundice, no rashes.  
NEURO: No asterixis.  

On discharge:
On admission:  
VS: 95 126/85 58 18 99%RA  
GENERAL: Well appearing older gentleman in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. MMM.  
CARDIAC: RRR, no mrg.  
LUNGS: CTAB, no w/r/r.  
ABDOMEN: Normoactive bowel sounds, non-tender, no 
rebound/guarding, no appreciable organomegaly.  
EXTREMITIES: No c/c/e. WWP.  
SKIN: No jaundice, no rashes.  
NEURO: No asterixis.
 
Pertinent Results:
On admission ___:
WBC-5.3 RBC-4.27* Hgb-13.0* Hct-39.7* MCV-93 MCH-30.6 MCHC-32.9 
RDW-13.9 Plt ___
Glucose-110* UreaN-16 Creat-1.3* Na-143 K-4.0 Cl-106 HCO3-27 
AnGap-14
ALT-478* AST-544* AlkPhos-375* Amylase-74 Lipase-99*

LFT trends: 
___ ALT-478* AST-544* AlkPhos-375* Amylase-74 Lipase-99*
___ ALT-424* AST-416* AlkPhos-424* TotBili-0.8
___ ALT-329* AST-253* AlkPhos-351* TotBili-0.6
___ ALT-741* AST-912* AlkPhos-595* TotBili-2.4*
___ ALT-642* AST-510* AlkPhos-533* TotBili-0.8
___ ALT-560* AST-346* AlkPhos-517* TotBili-0.7
___ ALT-500* AST-258* AlkPhos-452* TotBili-0.8
___ ALT-504* AST-248* AlkPhos-425* TotBili-0.7
 
Negative hepatitis panel, AMSA, ___
Ceruloplasm 40

Studies:

___ abd u/s: 
1. No biliary dilatation and no evidence of a retained stone in 
the bile 
duct. 
2. No obstructing kidney stone identified. 

___ EKG: Sinus bradycardia 
Possible left ventricular hypertrophy 
Nonspecific intraventricular conduction delay 

___ MRCP:
1. Distal CBD 6 mm stone with mild intra- and extra-hepatic 
biliary dilatation. 
2. Stable presumed hemangioma within segment II. 
3. Nodular subpleural focus of enhancement within the right 
lower lobe, which appears to correspond to a pulmonary nodule 
seen on prior CT examinations. This is not well characterized on 
MRI. 

___ ERCP:
Evidence of a previous sphincterotomy that is stenosed.  
Cannulation of the biliary duct was successful and contrast 
medium was injected resulting in complete opacification.  
A single 6mm round stone was seen at the biliary tree. 
The CBD was not dilated.  
The sphincterotomy was successfully extended in the 12 o'clock 
position using a sphincterotome over an existing guidewire.  
The stone was extracted successfully using a balloon. 
The duct was subsequently swept with a spiral basket and was 
clear.  
Otherwise normal ercp to third part of the duodenum

 
Brief Hospital Course:
# Choledocholithiasis: Transaminitis trending down. Likely 
related to 6mm common bile duct stone seen on MRCP and removed 
by ERCP. ___, AMSA, HBsAg, HCV all neg. Ceruloplasm 
minorly elevated. Synthetic function of liver intact given 
normal coags, albumin, platelets.  Continued on home sucralfate 
and ASA after ERCP.  
  
# Abdominal pain: Improved. Seems to have 2 different types of 
pain. For cramping, non-specific pain, suspect it was related to 
this stone. If not, GI recommends outpt w/u for potential IBS or 
bacterial overgrowth. ___ also has chronic LLQ pain which was 
extensively w/u and felt to be musculoskeletal vs. spasms. Seems 
unlikely infectious colitis again given lack of fever/elevated 
WBC count. EGD ___ at OSH had no signs of gastritis, neg H 
pylori.  
  
# Acute Kidney Injury: Resolved, now back to baseline Cr. 
Creatinine 1.0-1.2 at baseline and mildly up to 1.3 on 
admission. likely secondary to dehydration.  
  
# Anemia: Baseline hct appears to be in the high ___ with normal 
MCV and RDW. Iron studies, b12, and folate were all normal on 
this presentation. No other cell line abnormalities.  
 
# Chest pain: Complained of some pressure across his chest that 
___ has had before and passes with time. EKG normal. Likely 
related to his GERD.  
 
# Hypertension: Continued outpatient dose of metoprolol.  
 
# GERD: Patient is on pantoprazole and sucralfate but no 
gastritis seen on EGD ___ at ___. H. pylori was 
negative at time of EGD in ___. Continued PPI and sucralfate.  
  
# Elevated glucose: No h/o DM. BS mildly elevated.  
 
Medications on Admission:
Prilosec 40mg bid  
Aspirin 81 mg daily  
Klonopin 0.125 mg bid prn  
Lopressor 50 mg bid  
Sucralfate 1 gram qid  
Flovent MDI bid  
Albuterol MDI prn  

 
Discharge Medications:
1. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for anxiety, bladder spasm.  
2. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
3. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q6H (every 6 hours) as needed for wheezing, 
sob.  
4. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
6. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
DAILY (Daily) as needed for constipation .  
9. Morphine 15 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain: If you take morphine for pain, you cannot 
drive.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis
Abdominal pain

 
Discharge Condition:
stable, tolerating regular, lactose free diet, no pain

 
Discharge Instructions:
You were admitted to the hospital for worsening abdominal pain 
and found to have elevated liver enzymes.  Your pain increased 
after meals and a ___ imaging study found a 6mm stone in your 
biliary system.  This stone was then removed by ERCP and your 
liver enzymes are improving.  You are now tolerating foods and 
feel well.

No changes were made to your home medications but we did add 
some morphine to take when you have abdominal pain.  You must 
not drive when taking morphine.

Please keep your follow-up appointments as listed below.

If you experience worsening abdominal pain, nausea and vomiting, 
chest pain, or difficulty breathing, please call your doctor or 
go to the ER.
 
Followup Instructions:
___